* C:\Users\User\Desktop\esim\self_correcting_message_system\self_correcting_message_system.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 10/08/22 23:18:19

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
SC01  Net-_SC01-Pad1_ Net-_SC01-Pad2_ GND sky130_fd_pr__res_generic_nd		
SC02  Net-_SC02-Pad1_ Net-_SC01-Pad1_ GND sky130_fd_pr__res_generic_nd		
SC03  GND Net-_SC02-Pad1_ GND sky130_fd_pr__res_generic_nd		
X01  Net-_SC01-Pad2_ Net-_X01-Pad2_ Net-_SC01-Pad1_ Sine window01 GND avsd_opamp		
X02  Net-_SC01-Pad2_ Net-_X01-Pad2_ Sine Net-_SC02-Pad1_ window02 GND avsd_opamp		
v02  Net-_SC01-Pad2_ GND DC		
v03  GND Net-_X01-Pad2_ DC		
v01  Sine GND sine		
U01  Sine plot_v1		
U03  window02 plot_v1		
U02  window01 plot_v1		
U101  window01 Net-_U101-Pad2_ adc_bridge_1		
U102  Net-_U101-Pad2_ Net-_U102-Pad2_ vinayak_inverter		
U103  Net-_U102-Pad2_ Net-_U103-Pad2_ vinayak_inverter		
U104  Net-_U103-Pad2_ winv01 dac_bridge_1		
U105  winv01 plot_v1		
U106  window02 Net-_U106-Pad2_ adc_bridge_1		
U107  Net-_U106-Pad2_ Net-_U107-Pad2_ vinayak_inverter		
U108  Net-_U107-Pad2_ Net-_U108-Pad2_ vinayak_inverter		
U109  Net-_U108-Pad2_ winv02 dac_bridge_1		
U110  winv02 plot_v1		
U202  Net-_U201-Pad3_ Net-_U201-Pad4_ Net-_U202-Pad3_ d_xnor		
U203  Net-_U202-Pad3_ XNOR dac_bridge_1		
U201  winv01 winv02 Net-_U201-Pad3_ Net-_U201-Pad4_ adc_bridge_2		
U204  XNOR plot_v1		

.end
